US06391874B1
(1-Benzyl-1H-indazol-5-yl)-(6-(1-methylpyrrol-2-yl)-quinazolin-4-yl)-amine hydrochloride
A stirred solution of 1-methyl-2-(tri-n-butylstannyl)pyrrole (prepared as described in H. M. R. Hoffmann et al. Synthesis, 1996, 164) (1.07 g, 2.89 mmol), (1-benzylindazol-5-yl)-(6-iodoquinazolin-4-yl)-amine hydrochloride (1.0 g, 1.95 mmol), triethylamine (0.4 ml, 0.29 g, 2.87 mmol) and 1,4-bis(diphenylphosphino)-butane palladium (II) chloride (0.9 g, catalytic) in dioxane (10 ml) was heated to reflux under a nitrogen atmosphere for 18 hours. The mixture was concentrated in vacuo and purified by silica gel chromatography, eluting with 2:1 i-hexane/EtOAc. Concentration of the appropriate fractions gave a yellow solid which was dissolved in EtOAc and treated with a solution of HCl in dioxane. The precipitate was collected by filtration, washed with EtOAc and dried at 60C in vacuo to give the product as a green-yellow solid (0.26 g, 0.557 mmol, 29%); δH [2H6]DMSO 11.95 (1H,s), 8.86-8.96 (2H,m), 8.18-8.27 (2H,m), 8.07 (1H,s), 7.99 (1H,d),7.83 (1H,d), 7.65 (1H,dd), 7.22-7.40 (5H,m), 7.01 (1H,t), 6.49 (1H,dd), 6.19 (1H,t), 5.71 (2H,s), 3.82 (3H,s); m/z (M+1+) 4.31.

reactant | 1-methyl-2-(tri-n-butylstannyl)pyrrole | 2.89 mmol, 1.07 g | CN1C(=CC=C1)[Sn](CCCC)(CCCC)CCCC
reactant | (1-benzylindazol-5-yl)-(6-iodoquinazolin-4-yl)-amine hydrochloride | 1.95 mmol, 1.0 g | Cl.C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC=C(C=C12)I
reactant | triethylamine | 2.87 mmol, 0.4 ml, 0.29 g | C(C)N(CC)CC | C6H15N
reactant | HCl | Cl | ClH
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | 1,4-bis(diphenylphosphino)-butane palladium (II) chloride | 0.9 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P(CCCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1
product | (1-Benzyl-1H-indazol-5-yl)-(6-(1-methylpyrrol-2-yl)-quinazolin-4-yl)-amine hydrochloride | 0.557 mmol, 0.26 g, 29% | Cl.C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC=C(C=C12)C=1N(C=CC1)C | InChI=1S/C27H22N6.ClH/c1-32-13-5-8-25(32)20-9-11-24-23(15-20)27(29-18-28-24)31-22-10-12-26-21(14-22)16-30-33(26)17-19-6-3-2-4-7-19;/h2-16,18H,17H2,1H3,(H,28,29,31);1H
